US08735412B2
(R)-3-(2-Chloro-5-iodo-pyrimidin-4-yloxy)-2-methyl-butan-2-ol
1.84 g (42.3 mmol) of sodium hydride (55%) was added in portions, with stirring at 0° C., to a solution of 4.40 g (42.3 mmol) (R)-2-methyl-butane-2,3-diol in 83 ml diethyl ether and was stirred for 10 minutes. It was stirred for a further 3 minutes at room temperature and the mixture was then added to an ice-cooled solution of 9.68 g (35.2 mmol) of 2,4-dichloro-5-iodo-pyrimidine in 97 ml acetonitrile. The mixture was stirred for 4 hours at 40° C. and, after cooling, ice and saturated NaCl solution were added. It was then extracted with ethyl acetate (3×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. The residue obtained was purified chromatographically (hexane/ethyl acetate 4:1). 4.96 g (14.5 mmol; yield: 41%) of the product was obtained.

reactant | sodium hydride | 42.3 mmol, 1.84 g | [H-].[Na+]
reactant | (R)-2-methyl-butane-2,3-diol | 42.3 mmol, 4.40 g | CC(C)([C@@H](C)O)O | C5H12O2
reactant | 2,4-dichloro-5-iodo-pyrimidine | 35.2 mmol, 9.68 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | NaCl | [Na+].[Cl-]
solvent | diethyl ether | 83 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 97 ml | C(C)#N | C2H3N
product | (R)-3-(2-Chloro-5-iodo-pyrimidin-4-yloxy)-2-methyl-butan-2-ol | yield: 41% | ClC1=NC=C(C(=N1)O[C@@H](C(C)(O)C)C)I | C9H12ClIN2O2
